US07259266B2
Step 2: Preparation of ethyl 6-chloro-7-(2-hydroxy-1,1-dimethylethyl)-2-(trifluoromethyl)-2H-chromene-3-carboxylate
A single treatment of ethyl 7-(2-hydroxy-1,1-dimethylethyl)-2-(trifluoromethyl)-2H-chromene-3-carboxylate (5.4 g 16 mmoles) with Cl2 was performed as described in Example 115 Step 2. Chromatography of the residue using a gradient of 0-10% EtOAc—DCM as eluent gave the title compound, 3.7 g, as a nearly colorless oil.

reactant | ethyl 7-(2-hydroxy-1,1-dimethylethyl)-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 16 mmoles, 5.4 g | OCC(C)(C)C1=CC=C2C=C(C(OC2=C1)C(F)(F)F)C(=O)OCC | C17H19F3O4
reactant | Cl2 | ClCl | Cl2
solvent | EtOAc DCM | CCOC(=O)C.C(Cl)Cl
product | ethyl 6-chloro-7-(2-hydroxy-1,1-dimethylethyl)-2-(trifluoromethyl)-2H-chromene-3-carboxylate | ClC=1C=C2C=C(C(OC2=CC1C(CO)(C)C)C(F)(F)F)C(=O)OCC | C17H18ClF3O4
